US07192968B2
(1S,2R,4S)-N1-Benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine
(1S,2R,4S)-4-Carboxy-N1-benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-1,2-cyclohexanediamine was dissolved in dichloromethane (50 ml), and dimethylamine hydrochloride (240 mg), triethylamine (0.41 ml), 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (420 mg) and 1-hydroxybenzotriazole monohydrate (340 mg) were added to stir the mixture at room temperature for 1 hour. Dimethylamine hydrochloride (480 mg) and triethylamine (0.82 ml) were additionally added to the reaction mixture to stir the mixture at room temperature for additional 18 hours. The reaction mixture was poured into water to separate an organic layer. After the organic layer was washed with 1N hydrochloric acid and saturated saline and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methanol:methylene chloride=3:47→2:23) to obtain the title compound (620 mg) as a colorless foamy substance.

reactant | (1S,2R,4S)-4-Carboxy-N1-benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-1,2-cyclohexanediamine | C(=O)(O)[C@@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C20H28N2O6
reactant | dimethylamine hydrochloride | 240 mg | Cl.CNC
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 420 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 340 mg | O.ON1N=NC2=C1C=CC=C2
reactant | Dimethylamine hydrochloride | 480 mg | Cl.CNC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 0.82 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.41 ml | C(C)N(CC)CC | C6H15N
product | (1S,2R,4S)-N1-Benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine | 620 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(N(C)C)=O)NC(=O)OC(C)(C)C | C22H33N3O5
